US07709521B2
(i) 3-(4-chlorophenoxy)-2-methyl-5-(methylthio)-1H-indole
1-(4-Chloro-phenoxy)-propan-2-one (2.66 g) was added to a stirred solution of [4-(methylthio)phenyl]-hydrazine hydrochloride (2.5 g) in MeCN (15 ml)/HCl (0.5M, 15 ml) at RT. The reaction was stirred at 50° C. for 1 h. After cooling to room temperature, the reaction was partitioned between ethylacetate/water, the organics were separated, washed with aq sodium hydroxide (1 M), dried and evaporated under reduced pressure. The residue was purified by chromatography on silica eluting with 5-20% ethylacetate/iso-hexane. The resulting hydrazone was dissolved in THF (80 ml). Sodium bicarbionate solid (1.04 g) was added followed by phosphorus trichloride (0.41 ml) dropwise, and the reaction stirred at RT for 2 h. Further phosphorus trichloride (1.20 ml) was added dropwise, and the reaction stirred at RT for 16 h. The reaction was quenched with water. The mixture was extracted with ethylacetate, the organics washed with aq. sodium hydrogencarbonate, brine, dried and evaporated under reduced pressure. The residue was purified by chromatography on silica eluting with 5-10% ethylacetate/iso-hexane. Yield 0.45 g.

reactant | 1-(4-Chloro-phenoxy)-propan-2-one | 2.66 g | ClC1=CC=C(OCC(C)=O)C=C1 | C9H9ClO2
reactant | [4-(methylthio)phenyl]-hydrazine hydrochloride | 2.5 g | Cl.CSC1=CC=C(C=C1)NN
reactant | HCl | 0.5M, 15 ml | Cl | ClH
solvent | MeCN | 15 ml | CC#N | C2H3N
product | 3-(4-chlorophenoxy)-2-methyl-5-(methylthio)-1H-indole | ClC1=CC=C(OC2=C(NC3=CC=C(C=C23)SC)C)C=C1 | C16H14ClNOS
